US04213905
To a dry 100 ml 3-necked round-bottom flask under nitrogen is added 5-(p-chlorobenzoyl)-1,4-dimethylpyrrole-2-acetonitrile (1.4 g. 0.0051 mole) and 25 ml of dry tetrahydrofuran (THF). The solution is cooled to -25° C., ethyl mercaptan (0.39 ml, 0.0051 mole) is added, and hydrogen chloride is bubbled into the reaction mixture. After 1.5 hrs the reaction mixture is saturated with HC1 and the temperature is raised to and maintained at 0° C. for three hrs. The reaction mixture is then poured into toluene and steam is bubbled into the toluene mixture. The toluene layer is then separated, washed with brine and dried over anhydrous MgSO4. The toluene solvent is rotoevaporated to give 1.7 g of crude product which is recrystallized twice from methanol to yield 0.57 g (33.5%) of pure ethyl 5-(p-chlorobenzoyl)-1,4-dimethylpyrrole-2-thiolacetate; m.p. 90.5°-92° C.

reactant | 5-(p-chlorobenzoyl)-1,4-dimethylpyrrole-2-acetonitrile | 0.0051 mole, 1.4 g | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC#N)C)C=C1 | C15H13ClN2O
reactant | ethyl mercaptan | 0.0051 mole, 0.39 ml | C(C)S | C2H6S
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | ethyl 5-(p-chlorobenzoyl)-1,4-dimethylpyrrole 2-thiolacetate | 0.57 g, 33.5% | C(C)C=1N(C(=C(C1)C)C(C1=CC=C(C=C1)Cl)=O)C.S1C(=CC=C1)CC(=O)[O-] | InChI=1S/C15H16ClNO.C6H6O2S/c1-4-13-9-10(2)14(17(13)3)15(18)11-5-7-12(16)8-6-11;7-6(8)4-5-2-1-3-9-5/h5-9H,4H2,1-3H3;1-3H,4H2,(H,7,8)/p-1
